US07531532B2
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]amide
To a solution of 4-(azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (36.2 mg) in N,N-dimethylformamide (1 ml) was added a solution of 0.25 M 2-(4-fluorophenyl)acetyl isocyanate in ethyl acetate (1.14 ml) under a nitrogen atmosphere, followed by stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml), water (50 ml), brine (50 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, ethyl acetate:methanol=9:1). Fractions containing the target compound were concentrated to give a residue, which was then suspended in diethyl ether (1.5 ml) and hexane (3 ml). The solid was filtered off and dried under aeration to provide the titled compound (23.4 mg, 44.0%) as white powder.

reactant | 4-(azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 36.2 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCC2)C=C1 | C21H27N5O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | 0.25 M | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1.14 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
solvent | hexane | 3 ml | CCCCCC | C6H14
product | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]amide | 23.4 mg, 44.0% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCC2)C=C1)=O | C30H33FN6O4
